US04284631
N,N-Dimethylformamide (0.19 g.), phosphorylchloride (0.40 g.), 2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetic acid (syn isomer, 0.72 g.) and ethyl acetate (8.5 ml.) were treated in a similar manner to that of Example 1-(1) to give an activated acid solution. The solution was added to a solution of 7-amino-3-cephem-4-carboxylic acid (0.40 g.), trimethylsilylacetamide (1.35 g.), and bis(trimethylsilyl)acetamide (1.2 ml.) in ethyl acetate (4 ml.) at -10° C., and stirred at the same temperature for 1.5 hours. Water (10 ml.) and ethyl acetate (7 ml.) were added to the resultant solution, and the ethyl acetate layer was separated, extracted with a saturated aqueous solution of sodium bicarbonate (10 ml.). The extract was adjusted to pH 5.0 with 85% phosphoric acid and extracted with ethyl acetate (50 ml.). The extract was dried over magnesium sulfate and concentrated in vacuo to give 7-[2-(2-formamidothiazol-4-yl)-2-(2-tert butoxycarbonylaminoethoxyimino)acetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.65 g.).

reactant | phosphorylchloride | 0.40 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-formamidothiazol-4-yl)-2-(2-tert-butoxycarbonylaminoethoxyimino)acetic acid | 0.72 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCCNC(=O)OC(C)(C)C | C13H18N4O6S
reactant | 7-amino-3-cephem-4-carboxylic acid | 0.40 g | NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O | C7H8N2O3S
reactant | trimethylsilylacetamide | 1.35 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | bis(trimethylsilyl)acetamide | 1.2 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 7 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 8.5 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 10 ml | O | H2O
solvent | N,N-Dimethylformamide | 0.19 g | CN(C=O)C | C3H7NO
product | 7-[2-(2-formamidothiazol-4-yl)-2-(2-tert butoxycarbonylaminoethoxyimino)acetamido]-3-cephem-4-carboxylic acid | 0.65 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOCCNC(=O)OC(C)(C)C | C20H24N6O8S2
